US07906528B2
To a solution of the 4-[5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (120 mg, 0.30 mmol) in DMF (4 mL), NaH (60 wt % suspension in mineral oil, 36 mg, 0.89 mmol) is added followed by 4-bromoheptane (159 mg, 0.89 mmol). The mixture is stirred for 40 h at room temperature. The mixture is poured to water (10 mL), and the product is extracted with EtOAc. The combined organic extracts are washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Chromatography of the residue affords 4-[5-(2,6-diethyl-phenyl)-1-(1-propyl-butyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as colorless oil.

reactant | 4-[5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.30 mmol, 120 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CN=C(C=C21)C2=C(C=CC=C2CC)CC | C27H33N3O2
reactant | NaH | 0.89 mmol, 36 mg | [H-].[Na+]
reactant | 4-bromoheptane | 0.89 mmol, 159 mg | BrC(CCC)CCC | C7H15Br
reactant | water | 10 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-[5-(2,6-diethyl-phenyl)-1-(1-propyl-butyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C(CCC)CCC | C34H47N3O2
